US09193692B2
A. 5-Bromo-6-methylpicolinonitrile
A 1-L, three-neck, round-bottom flask equipped with a mechanical stirrer and a nitrogen inlet was charged with 3,6-dibromo-2-methylpyridine (150 g, 0.59 mol), copper (I) cyanide (42.8 g, 0.47 mol) and sodium cyanide (23 g, 0.47 mol). To the mixture was added N,N-dimethylformamide (300 mL). The mixture was heated to 95° C. and stirred for 48 h. The reaction mixture was cooled to ambient temperature and poured into ethanol (3 L) while stirring. The mixture was filtered through a pad of Celite, the filtrate was concentrated under reduced pressure and partitioned between water (3 L) and ethyl acetate (3 L). The organic layer was separated and washed with brine (2×600 mL), dried over anhydrous sodium sulfate, filtered and concentrated. The crude product was purified by silica gel plug purification (0-5% ethyl acetate in hexanes) to afford the product (61.5 g, 45% yield) as a white solid. In addition, 19.32 g (14%) of the mixture of the starting material and the product was isolated.

reactant | 3,6-dibromo-2-methylpyridine | 0.59 mol, 150 g | BrC=1C(=NC(=CC1)Br)C | C6H5Br2N
reactant | copper (I) cyanide | 0.47 mol, 42.8 g | [Cu]C#N
reactant | sodium cyanide | 0.47 mol, 23 g | [C-]#N.[Na+]
reactant | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 3 L | C(C)O | C2H6O
product | 5-Bromo-6-methylpicolinonitrile | 61.5 g, 45% yield | BrC=1C=CC(=NC1C)C#N | C7H5BrN2
